US06660873B2
5-Bromomethyl-1-(4-fluoro-phenyl)-1,3-dihydro-isobenzofuran
A suspension of 5-hydroxymethyl-1-(4-fluoro-phenyl)-1,3-dihydro-isobenzofuran (2 g, 8.2 mmol) in toluene (20 mL) was heated until the solid dissolved. Heating was then stopped. Thionyl bromide (2.2 g, 10.6 mmol) was added, and the mixture was stirred for 1 h. Silica (25 g) was added, and the mixture was filtered, and the residue was washed with a 1:1 v/v solution of ethyl acetate and heptane. The filtrate was evaporated to give the title compound as a red-orange oil (2.6 g, 90%). 1H NMR (d6-DMSO): δ 4.72 (s, 2H), 5.11 (d, 1H), 5.28 (d, 1H), 6.17 (s, 1H), 7.04 (d, 1H), 7.17 (t, 2H), 7.33 (d, 1H), 7.38 (dd, 2H), 7.45 (s, 1H).

reactant | 5-hydroxymethyl-1-(4-fluoro-phenyl)-1,3-dihydro-isobenzofuran | 8.2 mmol, 2 g | OCC=1C=C2COC(C2=CC1)C1=CC=C(C=C1)F | C15H13FO2
reactant | Thionyl bromide | 10.6 mmol, 2.2 g | S(=O)(Br)Br | Br2OS
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Bromomethyl-1-(4-fluoro-phenyl)-1,3-dihydro-isobenzofuran | 2.6 g, 90% | BrCC=1C=C2COC(C2=CC1)C1=CC=C(C=C1)F | C15H12BrFO
